US05395855
(a) 4-Cyano-6,7-dimethyl-1-indanone
A mixture of 17.8 g (74.5 mmol) of 4-bromo-6,7-dimethyl-1-indanone [J. Het. Chem. 24, 677 (1987)] and 7.3 g (82 mmol) of copper(I) cyanide in 18 ml of DMF is stirred for 6 hours at 170°. The reaction mixture is then cooled to 100° and 200 ml of toluene and a solution of 31.2 g of iron(III) chloride hexahydrate in 47 ml of water and 8.2 ml of concentrated hydrochloric acid are added in succession thereto. The reaction mixture is stirred for 20 minutes at 70°, cooled and diluted with toluene and water. The organic phase is separated off, washed with water, a semi-saturated sodium hydrogen carbonate solution and again with water, dried and concentrated by evaporation. The residue is crystallised from ethyl acetate and ether and corresponds to starting compound (a). Beige crystals having a melting point of 160°-163° are obtained; IR (CH2Cl2): 2220, 1710 cm-1.

reactant | 4-bromo-6,7-dimethyl-1-indanone | 74.5 mmol, 17.8 g | BrC1=C2CCC(C2=C(C(=C1)C)C)=O | C11H11BrO
reactant | copper(I) cyanide | 82 mmol, 7.3 g | [Cu]C#N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 18 ml | CN(C)C=O | C3H7NO
solvent | water | 47 ml | O | H2O
solvent | hydrochloric acid | 8.2 ml | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | iron(III) chloride hexahydrate | 31.2 g | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Cyano-6,7-dimethyl-1-indanone | C(#N)C1=C2CCC(C2=C(C(=C1)C)C)=O | C12H11NO
